US08357711B2
4-{[(5-Chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-fluorobenzoic acid
Methyl 4-{[(5-chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-fluorobenzoate (Preparation 32, 3.6 g, 10.26 mmol, 1 eq) was suspended in 2.5M sodium hydroxide (16.5 ml, 41 mmol, 4 eq) and dioxane (4 ml) and the reaction mixture heated at 50° C. for 2 hours. The organic solvent was removed in vacuo and the residue diluted with ethyl acetate (20 ml). The remaining solid was removed by filtration and the organic layer separated. The aqueous phase was acidified with concentrated HCl, extracted into ethyl acetate, washed with brine, dried over magnesium sulphate, filtered and evaporated in vacuo. The title compound was obtained as a white solid (2.74 g, 8.1 mmol, 79%).

reactant | Methyl 4-{[(5-chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-fluorobenzoate | 10.26 mmol, 3.6 g, 1 eq | ClC1=CN=C(S1)NS(=O)(=O)C1=CC(=C(C(=O)OC)C=C1)F | C11H8ClFN2O4S2
reactant | sodium hydroxide | 41 mmol, 2.5M, 16.5 ml, 4 eq | [OH-].[Na+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 4-{[(5-Chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-fluorobenzoic acid | ClC1=CN=C(S1)NS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)F | C10H6ClFN2O4S2
